US05254581
Using a similar procedure to that described in Example 14, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with 4-acetyl-4-(3-hydroxyphenyl)tetrahydropyran to give 4-acetyl-4-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran in 52% yield, m.p. 125°-126° C.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 4-acetyl-4-(3-hydroxyphenyl)tetrahydropyran | C(C)(=O)C1(CCOCC1)C1=CC(=CC=C1)O | C13H16O3
product | 4-acetyl-4-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran | 52% yield | C(C)(=O)C1(CCOCC1)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H25NO4
